US06015812
A) 3-(4-Chlorophenyl)-3-(phenylacetamido)propionic acid
9.6 g of 3-amino-3-(4-chlorophenyl)propionic acid are dissolved in 200 ml of dioxane and about 50 ml of 1N NaOH in order to reach pH=10.5-11.5. The medium is cooled to +5° C. and 6.34 ml of phenylacetyl chloride are then gradually added, while maintaining the mixture at pH=10.5-11.5 and at a temperature of between +5° C. and +10° C. Stirring is continued for 1 and a half hours and the medium is then concentrated to one-half before diluting with 500 ml of water. The resulting mixture is washed twice with EtOAc and then acidified to pH=1-2 by addition of 6N HCl. The solid is drained, washed with water and dried to give 14 g of the expected compound.

reactant | 3-amino-3-(4-chlorophenyl)propionic acid | 9.6 g | NC(CC(=O)O)C1=CC=C(C=C1)Cl | C9H10ClNO2
reactant | NaOH | 1N, about 50 ml | [OH-].[Na+]
reactant | phenylacetyl chloride | 6.34 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 3-(4-Chlorophenyl)-3-(phenylacetamido)propionic acid | 14 g | ClC1=CC=C(C=C1)C(CC(=O)O)NC(CC1=CC=CC=C1)=O | C17H16ClNO3
